US08058045B2
A mixture of 4,6-dichloropyrimidine (1.00 g, 6.7 mmol), 2-amino-5-cyanopyrazine (806 mg, 6.7 mmol) and bis(triphenylphosphine)palladium (II) chloride (94 mg, 0.134 mmol) in dry THF (24 mL) was degassed under a stream of nitrogen gas for 10 minutes with stirring. Lithium bis(trimethylsilyl)amide in THF (1M, 7.38 mL, 7.4 mmol) was added and the mixture was heated at 135° C. for 20 minutes using microwave irradiation. The reaction mixture was adsorbed onto silica and purified by flash column chromatography, eluting with 30% ethyl acetate in hexane, to give 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile (300 mg, 19%).

reactant | 4,6-dichloropyrimidine | 6.7 mmol, 1.00 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-amino-5-cyanopyrazine | 6.7 mmol, 806 mg | NC1=NC=C(N=C1)C#N | C5H4N4
reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.134 mmol, 94 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | THF | 7.4 mmol, 1M, 7.38 mL | C1CCOC1 | C4H8O
product | 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile | 300 mg, 19% | ClC1=CC(=NC=N1)NC=1N=CC(=NC1)C#N | C9H5ClN6
